US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one and piperidine with 4-hydroxypiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)-phenyl]-5-(4-hydroxypiperidin-1-yl)pentan-1-one hydrochloride, m.p. 220-222° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)-phenyl]-5-(4-hydroxypiperidin-1-yl)pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)O)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C25H33ClN2O5.ClH/c1-31-19-11-17(12-20(13-19)32-2)16-33-25-15-23(27)22(26)14-21(25)24(30)5-3-4-8-28-9-6-18(29)7-10-28;/h11-15,18,29H,3-10,16,27H2,1-2H3;1H
